US08975400B2
4-(3,5-difluorophenoxy)-3,5-difluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4,5-trifluorobenzaldehyde and 3,5-difluorophenol.

reactant | 3,4,5-trifluorobenzaldehyde | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 4-(3,5-difluorophenoxy)-3,5-difluorobenzaldehyde | FC=1C=C(OC2=C(C=C(C=O)C=C2F)F)C=C(C1)F | C13H6F4O2
